US03973006
Pyroglutamyl-tryptophyl-prolyl-arginyl-prolyl-glutaminyl-isoleucyl-prolyl-proline, methyl ester
Pyroglutamyl-tryptophyl-prolyl-arginyl-prolyl-glutaminyl-isoleucyl-prolyl-proline (1.6 g) is dissolved in 80 ml of methanol. To this, excess ethereal diazomethane is added and the solution is kept for 7 hours at room temperature. Acetic acid is added to destroy the excess diazomethane and the resulting mixture is concentrated to dryness in vacuo.

reactant | Pyroglutamyl-tryptophyl-prolyl-arginyl-prolyl-glutaminyl-isoleucyl-prolyl-proline | 1.6 g | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)N2[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N3[C@H](C(=O)N4[C@H](C(=O)O)CCC4)CCC3)CCC2)CCC1 | C53H76N14O12
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 80 ml | CO | CH4O
product | Pyroglutamyl-tryptophyl-prolyl-arginyl-prolyl-glutaminyl-isoleucyl-prolyl-proline, methyl ester | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)N2[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N3[C@H](C(=O)N4[C@H](C(=O)OC)CCC4)CCC3)CCC2)CCC1 | C54H78N14O12
